US05571810
A mixture of methyl 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-acetate (1.8 g) and lithium aluminum hydride (0.63 g) in diethyl ether (30 ml) was stirred at 0° C. for 1 hour. Ethyl acetate and 10% sulfuric acid (50 ml) were added, and the resulting mixture was filtered. The organic layer was separated, washed with water, dried and concentrated under reduced pressure. The residual pale yellow oil (1.6 g) was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (2:1). The obtained oil (1.4 g) was pulverized with hexane to give a yellow powder of 2-(4-fluorophenyl)-5-(2-hydroxyethyl)-3-[4-(methylsulfonyl)phenyl]thiophene.

reactant | methyl 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-acetate | 1.8 g | FC1=CC=C(C=C1)C1=C(C=C(S1)CC(=O)OC)C1=CC=C(C=C1)S(=O)(=O)C | C20H17FO4S2
reactant | lithium aluminum hydride | 0.63 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-(4-fluorophenyl)-5-(2-hydroxyethyl)-3-[4-(methylsulfonyl)phenyl]thiophene | FC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)S(=O)(=O)C)CCO | C19H17FO3S2
